US04160085
To a solution of p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate (281 mg) in methanol free methylene chloride (2.1 ml) is added aluminum chloride (220 mg) under ice cooling, and the mixture is stirred under argon atmosphere. After 35 minutes, the reaction mixture is poured into ice water containing 4N-hydrochloric acid (4 ml). stirred for 10 minutes, and is extracted with chloroform. The extract solution is washed with water, dried and evaporated to give p-nitrobenzyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate (150 mg). Yellow foam. Yield: 94.6%. IR: vmaxCDCl3 3400, 1780, 1692, 1610, 1603 cm-1. NMR: δCDCl3 2.25d(10Hz)1H, 4.25d(2Hz), 4.58s2H, 5.20-5.37m4H, 6.84-8.24m9H, 12.1s1H.

reactant | p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate | 281 mg | C1(CC1)COC(=O)SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(CBr)O)=O)NC(COC1=CC=CC=C1)=O | C27H26BrN3O10S
reactant | aluminum chloride | 220 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | methanol | 2.1 ml | CO | CH4O
product | p-nitrobenzyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate | 150 mg, Yield: 94.6% | SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(CBr)O)=O)NC(COC1=CC=CC=C1)=O | C22H20BrN3O8S
